US07799814B2
Step I: tert-butyl [(3E)-3-amino-3-(hydroxyimino)propyl]carbamate
Tert-butyl N-(2-cyanoethyl)carbamate (40 g; 235 mmol; 1 eq.) and hydroxylamine (41.6 ml; 705 mmol; 3 eq.) are dissolved in EtOH (800 ml). The resulting solution is heated under reflux for 2 hours. The reaction is followed by NMR. The reaction mixture is then cooled down to RT, and concentrated under vacuum, affording the title compound as a white solid (47.5 g, 99%).

reactant | Tert-butyl N-(2-cyanoethyl)carbamate | 235 mmol, 40 g, 1 eq. | C(#N)CCNC(OC(C)(C)C)=O | C8H14N2O2
reactant | hydroxylamine | 705 mmol, 41.6 ml, 3 eq. | NO | H3NO
solvent | EtOH | 800 ml | CCO | C2H6O
product | tert-butyl [(3E)-3-amino-3-(hydroxyimino)propyl]carbamate | 47.5 g, 99% | N/C(/CCNC(OC(C)(C)C)=O)=N/O | C8H17N3O3
